US04656235
Synthesis of 1,3-Bis(3-furyl)-tetramethyl disiloxane
Fifty (50) ml of n-butyl lithium (1.55 in hexane) were transferred via a syringe to a one-necked, round-bottomed flask, under nitrogen, equipped with a magnetic stirrer. Ten (10) grams of 3-Bromofuran in 10 ml of dry tetrahydrofuran (THF) were then added dropwise under nitrogen. Once this addition was complete, the resulting solution was stirred at -78 degrees C. for 1 hour. A pale yellow precipitate formed, and 6.5 g of 1,3-dichlorotetramethyl disiloxane in 10 ml dry THF were then added dropwise at -78 degrees C. under nitrogen. The precipitate slowly disappeared. The solution was then stirred for 4 hours at -78 degrees C.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-Bromofuran | BrC1=COC=C1 | C4H3BrO
reactant | 1,3-dichlorotetramethyl disiloxane | 6.5 g | Cl[Si](O[Si](Cl)(C)C)(C)C | C4H12Cl2OSi2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | THF | 10 ml | O1CCCC1 | C4H8O
product | 1,3-Bis(3-furyl)-tetramethyl disiloxane | O1C=C(C=C1)[Si](O[Si](C1=COC=C1)(C)C)(C)C | C12H18O3Si2
